US07713994B2
(4E)-N-Methyl-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione
To a stirred mixture of 0.35 g (2.0 mmol) of (N-methyl)isoquinoline-1,3(2H,4H)-dione, 3.2 ml of Ac2O, and 0.80 ml of N,N-dimethylformamide is added 0.44 ml (4.0 mmol) of (MeO)3CH at 25° C. The mixture is stirred at 125° C. for 30 m, cooled, and concentrated under high vacuum. The residue is recrystallized from Et2O-hexane to give 0.20 g of tan solid, mp 145-150° C. (dec); MS (ES+) m/z 218.2 (M+H)+1: Analysis for C12H11NO3: Calcd: C, 66.35; H, 5.10; N, 6.45. Found: C, 65.98; H, 4.99; N, 6.42.

reactant | (N-methyl)isoquinoline-1,3(2H,4H)-dione | 2.0 mmol, 0.35 g | CN1C(C2=CC=CC=C2CC1=O)=O | C10H9NO2
reactant | Ac2O | 3.2 ml | CC(=O)OC(=O)C | C4H6O3
reactant | (MeO)3CH | 4.0 mmol, 0.44 ml | C(OC)(OC)OC | C4H10O3
solvent | N,N-dimethylformamide | 0.80 ml | CN(C=O)C | C3H7NO
product | (4E)-N-Methyl-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.20 g | CN1C(C2=CC=CC=C2\C(\C1=O)=C/OC)=O | C12H11NO3
